US06248740B1
Production of 6-[6-[4-(diphenylmethoxy)piperidino] hexyloxy]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine hydrochloride
160 mg of 60% sodium hydride in oil was suspended in 20 ml of tetrahydrofuran; 1.24 g of 4-(diphenylmethoxy)-1-piperidinehexanol was added, followed by heating and refluxing for 1 hour. After cooling, 570 mg of 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine was added, followed by heating and refluxing for 1 hour. After cooling, ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. After the dry product was concentrated under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol (10:1). The desired fraction was collected and dissolved in 5 ml of ethyl acetate; 0.54 ml of a 4 N hydrogen chloride solution in ethyl acetate was added; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 0.70 g of the title compound.

reactant | sodium hydride | 160 mg | [H-].[Na+]
reactant | 4-(diphenylmethoxy)-1-piperidinehexanol | 1.24 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCCCCO)C1=CC=CC=C1 | C24H33NO2
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | 570 mg | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-[6-[4-(diphenylmethoxy)piperidino] hexyloxy]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine hydrochloride | 0.70 g | Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCCCCOC=1C(=CC=2N(N1)N=CN2)C)C2=CC=CC=C2 | InChI=1S/C30H37N5O2.ClH/c1-24-22-28-31-23-32-35(28)33-30(24)36-21-11-3-2-10-18-34-19-16-27(17-20-34)37-29(25-12-6-4-7-13-25)26-14-8-5-9-15-26;/h4-9,12-15,22-23,27,29H,2-3,10-11,16-21H2,1H3;1H
